US07396847B2
(5R)-3-(3-Fluoro-4-{5-[5-(hydroxymethyl)-4,5-dihydroisoxazol-3-yl]thien-2-yl}phenyl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one
(5R)-3-(3-Fluoro-4-iodophenyl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one (280 mg, 0.72 mM), {3-[5-(trimethylstannyl)thien-2-yl]-4,5-dihydroisoxazol-5-yl}methanol (250 mg, 0.72 mM), tris(dibenzylideneacetone)dipalladium (0)-chloroform adduct (75 mg, 0.072 mM) and tri-2-furylphosphine (34 mg, 0.145 mM) were placed in a flask. The solids were degassed and placed under nitrogen. Anhydrous dioxane (5 ml) was added and the suspension was heated at 90° C. for 16 hours. The reaction mixture was cooled and the solvent was evaporated. The residue was chromatographed on silica gel eluting with 5% methanol in dichloromethane to give the title compound (170 mg).

reactant | (5R)-3-(3-Fluoro-4-iodophenyl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 0.72 mM, 280 mg | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CN1N=NC=C1)=O | C12H10FIN4O2
reactant | {3-[5-(trimethylstannyl)thien-2-yl]-4,5-dihydroisoxazol-5-yl}methanol | 0.72 mM, 250 mg | C[Sn](C1=CC=C(S1)C1=NOC(C1)CO)(C)C
reactant | tri-2-furylphosphine | 0.145 mM, 34 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
catalyst | tris(dibenzylideneacetone)dipalladium (0)-chloroform adduct | 0.072 mM, 75 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | (5R)-3-(3-Fluoro-4-{5-[5-(hydroxymethyl)-4,5-dihydroisoxazol-3-yl]thien-2-yl}phenyl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 170 mg | FC=1C=C(C=CC1C=1SC(=CC1)C1=NOC(C1)CO)N1C(O[C@H](C1)CN1N=NC=C1)=O | C20H18FN5O4S
